US07691876B2
Preparation of 7-chloro-5-trifluoromethyl-1H-pyrrolo[2,3-c]pyridine
(2-Chloro-4-iodo-6-trifluoromethyl-pyridin-3-yl)-carbamic acid methyl ester: sec-Butyllithium solution (1.3 M in cyclohexane, 7.55 mL, 5.81 mmol) was added at −78° C. to a solution of (2-chloro-6-trifluoromethyl-pyridin-3-yl)-carbamic acid methyl ester (1.00 g, 3.93 mmol) and N,N,N′,N′-tetramethylethylenediamine (1.14 g, 9.82 mmol) in THF (50 mL). The solution was stirred for 1 h at −10° C., then cooled again to −78° C. and treated with a solution of iodine (1.66 g, 6.52 mmol) in THF (20 mL). After stirring for 1 h at −10° C., the reaction mixture was partitioned between ethyl acetate and 30% aq. sodium sulfite solution. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography of the residue (SiO2, dichloromethane) afforded the title compound (810 mg, 54%). White solid, MS (EI) 345.0 (100), 379.9 (2, M+).

reactant | (2-Chloro-4-iodo-6-trifluoromethyl-pyridin-3-yl)-carbamic acid methyl ester | COC(NC=1C(=NC(=CC1I)C(F)(F)F)Cl)=O | C8H5ClF3IN2O2
reactant | sec-Butyllithium | 5.81 mmol, 1.3 M, 7.55 mL | C(C)(CC)[Li]
reactant | (2-chloro-6-trifluoromethyl-pyridin-3-yl)-carbamic acid methyl ester | 3.93 mmol, 1.00 g | COC(NC=1C(=NC(=CC1)C(F)(F)F)Cl)=O | C8H6ClF3N2O2
reactant | N,N,N′,N′-tetramethylethylenediamine | 9.82 mmol, 1.14 g | CN(CCN(C)C)C | C6H16N2
reactant | iodine | 6.52 mmol, 1.66 g | II | I2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-chloro-5-trifluoromethyl-1H-pyrrolo[2,3-c]pyridine | 810 mg, 54% | ClC=1N=C(C=C2C1NC=C2)C(F)(F)F | C8H4ClF3N2
